* Arm A oscillator 13: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 13: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 5.641260e-17
Cg1 nand_Y 0 5.641260e-17
Cc0 i1_A i2_A 3.850060e-17
Cc1 EN i1_A 6.485730e-17
Rn1_1 i1_Y i2_A 30.9795
Cg2 i2_A 0 2.023550e-16
Cg3 i1_Y 0 2.023550e-16
Cc2 i2_A i3_A 2.808530e-17
Cc3 EN i2_A 1.484010e-17
Cx0 i2_A 0 5.802170e-17
Cx1 i2_A 0 0.000000e+00
Rn10_2 i10_Y i11_A 33.4080
Cg4 i11_A 0 2.871710e-16
Cg5 i10_Y 0 2.871710e-16
Cc4 i11_A i10_A 2.566940e-17
Cx2 i11_A 0 0.000000e+00
Cx3 i11_A 0 3.316400e-17
Cx4 i11_A 0 1.855870e-16
Rn11_3 i11_Y i12_A 20.3188
Cg6 i12_A 0 1.108240e-16
Cg7 i11_Y 0 1.108240e-16
Rn12_4 i12_Y i13_A 20.7295
Cg8 i13_A 0 1.362380e-16
Cg9 i12_Y 0 1.362380e-16
Rn13_5 i13_Y i14_A 30.5688
Cg10 i14_A 0 1.591750e-16
Cg11 i13_Y 0 1.591750e-16
Cx5 i14_A 0 8.390000e-17
Cx6 i14_A 0 0.000000e+00
Rn14_6 i14_Y i15_A 19.4973
Cg12 i15_A 0 6.196220e-17
Cg13 i14_Y 0 6.196220e-17
Rn15_7 i15_Y s1326_14 21.4116
Rn15_8 s1326_14 i16_A 9.3000
Rn15_9 s1326_14 buf_A 10.3580
Cg14 buf_A 0 5.117210e-17
Cg15 i16_A 0 0.000000e+00
Cg16 i15_Y 0 1.475170e-16
Cg17 s1326_14 0 1.986890e-16
Cc5 buf_A i17_A 2.546480e-17
Cc6 s1326_14 i17_A 4.564460e-17
Cc7 s1326_14 i19_A 2.890160e-17
Cc8 s1326_14 s1351_12 0.000000e+00
Cx7 s1326_14 0 1.523400e-16
Rn16_10 i16_Y i17_A 22.3455
Cg18 i17_A 0 2.215360e-16
Cg19 i16_Y 0 2.215360e-16
Cc9 i17_A i18_A 4.868200e-17
Cc10 i17_A i19_A 5.878090e-18
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 4.575060e-17
Cg21 i17_Y 0 4.575060e-17
Rn18_12 i18_Y i19_A 30.2652
Cg22 i19_A 0 1.473750e-16
Cg23 i18_Y 0 1.473750e-16
Cc11 i19_A i20_A 2.807150e-17
Cx8 i19_A 0 6.979720e-17
Rn19_13 i19_Y i20_A 22.0241
Cg24 i20_A 0 1.928950e-16
Cg25 i19_Y 0 1.928950e-16
Cc12 i20_A i21_A 9.267620e-17
Cc13 i20_A i22_A 1.669550e-17
Rn2_14 i2_Y i3_A 20.8277
Cg26 i3_A 0 1.173980e-16
Cg27 i2_Y 0 1.173980e-16
Cc14 i3_A i4_A 1.965170e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 4.177250e-17
Cg29 i20_Y 0 4.177250e-17
Rn21_16 i21_Y i22_A 32.2384
Cg30 i22_A 0 1.435230e-16
Cg31 i21_Y 0 1.435230e-16
Cc15 i22_A i23_A 1.049740e-16
Cx9 i22_A 0 1.407490e-17
Cx10 i22_A 0 1.164260e-16
Cx11 i22_A 0 3.193090e-16
Rn22_17 i22_Y i23_A 30.9527
Cg32 i23_A 0 1.418800e-16
Cg33 i22_Y 0 1.418800e-16
Cc16 i23_A i24_A 8.742510e-17
Cc17 i23_A i26_A 0.000000e+00
Cx12 i23_A 0 7.403030e-18
Cx13 i23_A 0 1.015450e-16
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 8.859430e-17
Cg35 i23_Y 0 8.859430e-17
Cc18 i24_A i25_A 2.209870e-17
Cc19 i24_A i26_A 0.000000e+00
Cc20 EN i24_A 7.887210e-17
Rn24_19 i24_Y i25_A 21.0643
Cg36 i25_A 0 8.676680e-17
Cg37 i24_Y 0 8.676680e-17
Cc21 i25_A i26_A 3.206120e-17
Cc22 i25_A i27_A 1.976950e-17
Cc23 EN i25_A 1.826940e-16
Rn25_20 i25_Y i26_A 20.8277
Cg38 i26_A 0 9.469480e-17
Cg39 i25_Y 0 9.469480e-17
Cc24 i26_A i27_A 4.857030e-17
Cc25 EN i26_A 2.761040e-17
Rn26_21 i26_Y i27_A 22.0777
Cg40 i27_A 0 1.214090e-16
Cg41 i26_Y 0 1.214090e-16
Cc26 i27_A i28_A 2.629080e-17
Cc27 EN i27_A 1.210210e-16
Rn27_22 i27_Y i28_A 30.6313
Cg42 i28_A 0 1.605970e-16
Cg43 i27_Y 0 1.605970e-16
Cc28 i28_A i29_A 1.407490e-17
Cc29 EN i28_A 5.470330e-18
Cx14 i28_A 0 1.264390e-16
Cx15 i28_A 0 4.575380e-17
Rn28_23 i28_Y i29_A 21.1313
Cg44 i29_A 0 1.319230e-16
Cg45 i28_Y 0 1.319230e-16
Cc30 i29_A i30_A 5.890770e-17
Rn29_24 i29_Y i30_A 21.6848
Cg46 i30_A 0 1.549080e-16
Cg47 i29_Y 0 1.549080e-16
Cc31 i30_A nand_B 2.629080e-17
Rn3_25 i3_Y i4_A 29.8545
Cg48 i4_A 0 1.175950e-16
Cg49 i3_Y 0 1.175950e-16
Cc32 i4_A i5_A 2.808530e-17
Cx16 i4_A 0 6.749110e-17
Cx17 i4_A 0 0.000000e+00
Rn30_26 i30_Y nand_B 31.2161
Cg50 nand_B 0 2.392160e-16
Cg51 i30_Y 0 2.392160e-16
Cx18 nand_B 0 1.298680e-16
Cx19 nand_B 0 0.000000e+00
Rn4_27 i4_Y i5_A 20.8277
Cg52 i5_A 0 1.152640e-16
Cg53 i4_Y 0 1.152640e-16
Cc33 i5_A i6_A 3.579980e-17
Rn5_28 i5_Y i6_A 21.1313
Cg54 i6_A 0 1.196120e-16
Cg55 i5_Y 0 1.196120e-16
Cc34 i6_A i7_A 6.586480e-17
Rn6_29 i6_Y i7_A 30.5688
Cg56 i7_A 0 1.301270e-16
Cg57 i6_Y 0 1.301270e-16
Cc35 i7_A i8_A 2.798270e-17
Cc36 i7_A i9_A 1.361610e-17
Cx20 i7_A 0 1.489030e-16
Cx21 i7_A 0 5.802170e-17
Rn7_30 i7_Y i8_A 20.8277
Cg58 i8_A 0 1.134800e-16
Cg59 i7_Y 0 1.134800e-16
Cc37 i8_A i9_A 4.832510e-17
Rn8_31 i8_Y i9_A 21.5866
Cg60 i9_A 0 1.973000e-16
Cg61 i8_Y 0 1.973000e-16
Rn9_32 i9_Y i10_A 29.8098
Cg62 i10_A 0 1.127700e-16
Cg63 i9_Y 0 1.127700e-16
Cx22 i10_A 0 4.574450e-17
Cx23 i10_A 0 1.145480e-17
Cx24 i10_A 0 0.000000e+00
Rout_33 buf_X s1351_12 20.8893
Cg64 buf_X 0 1.843770e-16
Cg65 s1351_12 0 2.088490e-15
Cx25 s1351_12 0 0.000000e+00

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
